US05955495
Ozone was conducted at -78° C. into a solution of 6.6 g (34 mmol) of a 4:1 mixture of 4-fluoro-2-methyl-7-propyl-benzofuran and 4-fluoro-2-methyl-7-propyl-2,3-dihydro-benzofuran until the color became blue. Subsequently, argon was conducted through the solution which was then treated at -78° C. with 13 ml of dimethyl sulfide. After warming to room temperature the solution was concentrated in a vacuum and the residue was dissolved in 50 ml of ethanol. After the addition of 50 ml of 3% sodium hydrogen carbonate solution the mixture was stirred at 70° C. for 30 minutes. Subsequently, the mixture was poured on to 200 ml of ice-water, made acid with 10% HCl and extracted three times with 150 ml of diethyl ether each time. After drying over sodium sulfate concentration was carried out in a vacuum. The crude product obtained was purified by column chromatography on silica gel (dichloromethane/hexane 2:3). There were obtained 5.0 g (100%) of 6-fluoro-2-hydroxy-3-propyl-benzaldehyde as a pale yellow oil, which was used immediately in the next reaction.

reactant | Ozone | O=[O+][O-] | O3
reactant | 4-fluoro-2-methyl-7-propyl-benzofuran | FC1=CC=C(C2=C1C=C(O2)C)CCC | C12H13FO
reactant | 4-fluoro-2-methyl-7-propyl-2,3-dihydro-benzofuran | FC1=CC=C(C2=C1CC(O2)C)CCC | C12H15FO
reactant | dimethyl sulfide | 13 ml | CSC | C2H6S
product | 6-fluoro-2-hydroxy-3-propyl-benzaldehyde | 5.0 g, 100% | FC1=CC=C(C(=C1C=O)O)CCC | C10H11FO2
